US07129239B2
Preparation of 1-[9-(4-Chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-yl]-4-hydroxypiperidine-4-carboxylic Acid Methyl Ester (23A-1)
Chloro-9-(4-chlorophenyl)-8-(2-chlorophenyl)-9H-purine I-(4A-7)c (59 mg, 0.16 mmol) and 4-hydroxy-piperidine-4-carboxylic acid (22 mg, 0.14 mmol) were coupled by the general method of Example 19. The crude product (ESI MS (M+1) 484) was dissolved in 1:1 methanol/benzene (0.6 ml) and then treated with trimethylsilyldiazomethane (2 M in hexanes, 0.17 ml, 0.34 mmol). After stirring for 1 hour the reaction was concentrated under a stream of nitrogen and then purified by preparative TLC using 4% methanol in methylene chloride to give title compound 23A-1 (31 mg, 44%). An ether/methylene chloride solution of the material was treated with excess 1 M HCl in ether, concentrated under a stream of nitrogen, and then triturated from ether to give the hydrochloride salt of compound 23A-1 (27 mg, 36% overall) as a light tan solid: +ESI MS (M+1) 498.1; 1H NMR (400 MHz, CD3OD) δ 8.38 (s, 1H), 7.62–7.59 (m, 1H), 7.51–7.40 (m, 5H), 7.34 (d, J=8.7 Hz, 2H), 3.90 (v br s, 2H), 3.75 (s, 3H), 2.25 (td, J=13.1, 4.1 Hz, 2H), 1.97 (br d, J=12.4 Hz, 2H).

reactant | Chloro-9-(4-chlorophenyl)-8-(2-chlorophenyl)-9H-purine | 0.16 mmol, 59 mg | ClC1=NC=C2N=C(N(C2=N1)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C17H9Cl3N4
reactant | 4-hydroxy-piperidine-4-carboxylic acid | 0.14 mmol, 22 mg | OC1(CCNCC1)C(=O)O | C6H11NO3
reactant | trimethylsilyldiazomethane | 0.34 mmol, 2 M, 0.17 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol benzene | 0.6 ml | CO.C1=CC=CC=C1
product | 1-[9-(4-Chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-yl]-4-hydroxypiperidine-4-carboxylic Acid Methyl Ester | COC(=O)C1(CCN(CC1)C1=C2N=C(N(C2=NC=N1)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl)O | C24H21Cl2N5O3
